US07981886B2
32.a) 4-(4-methoxy-benzothiazole-2-carbonyl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-methoxybenzothiazole (413 mg, 2.5 mmol) in THF (10 ml) at −75° C. was added dropwise n-BuLi (2.5M in Hex, 1.1 ml) such that the temperature did not exceed −70° C. The brown solution was stirred at this temperature for 15 min before the dropwise addition of a solution of 4-(methoxy-methyl-carbamoyl)-piperidine-1-carboxylic acid tert-butyl ester (680 mg, 2.5 mmol) in THF (2 ml). The temperature was also kept below −70° C. The brown solution was then gradually allowed to reach RT (over 3 h). The mixture was poured on water and extracted with EtOAc. Organic extracts were washed with brine and dried over MgSO4 and concentrated. Chromatography on SiO2 (hex/EtOAc 2:1) gave 565 mg (60%) of a yellowish solid.

reactant | 4-methoxybenzothiazole | 2.5 mmol, 413 mg | COC1=CC=CC2=C1N=CS2 | C8H7NOS
reactant | n-BuLi | 2.5M, 1.1 ml | [Li]CCCC
reactant | 4-(methoxy-methyl-carbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.5 mmol, 680 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N(C)OC)=O | C13H24N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-(4-methoxy-benzothiazole-2-carbonyl)-piperidine-1-carboxylic acid tert-butyl ester | 565 mg, 60% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C=1SC2=C(N1)C(=CC=C2)OC | C19H24N2O4S
